US04851387
400 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoate was dissolved in 1.93 ml of an ethanol/water (10/1) solution of 2N potassium hydroxide, and the solution was stirred overnight at room temperature. 24 ml of water was added thereto, and the mixture was cooled to 0° C., then neutralized with 1N hydrochloric acid and extracted three times with 15 ml of ethyl acetate. The ethyl acetate layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then the solvent was distilled off under reduced pressure to obtain 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid as a colorless oily substance.

reactant | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoate | 400 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)CCOC1OCCCC1)(C)C | C29H43NO7
reactant | water | 24 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | hexane ethyl acetate | 1.93 ml | CCCCCC.C(C)(=O)OCC
solvent | potassium hydroxide | 2N | [OH-].[K+]
product | 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)O)CCOC1OCCCC1)(C)C | C27H39NO7
